US08729095B2
At room temperature, to a methanol solution (200 ml) of tert-butyl 4-{[(2R)-2-(benzyloxy)propanoyl]amino}piperidine-1-carboxylate (6.90 g) was added 10% palladium carbon (2.03 g), followed by stirring overnight under a hydrogen atmosphere. The reaction solution was filtered through Celite, and then concentrated under reduced pressure to afford tert-butyl 4-{[(2R)-2-hydroxypropanoyl]amino}piperidine-1-carboxylate (5.19 g).

reactant | tert-butyl 4-{[(2R)-2-(benzyloxy)propanoyl]amino}piperidine-1-carboxylate | 6.90 g | C(C1=CC=CC=C1)O[C@@H](C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C20H30N2O4
catalyst | palladium carbon | 2.03 g | [C].[Pd]
solvent | methanol | 200 ml | CO | CH4O
product | tert-butyl 4-{[(2R)-2-hydroxypropanoyl]amino}piperidine-1-carboxylate | 5.19 g | O[C@@H](C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O4
